US05247085
b) 6-Chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine
A solution of 4-chloro-6-[2-(diethoxyphosphorylmethoxy)ethoxyamino]-5-formamidopyrimidine (2.4 g, 6.3 mmol) in diethoxymethyl acetate (10 ml) was heated at 120° C. for 45 minutes. After cooling to ambient temperature, the solvent was removed under reduced pressure. The residue was dissolved in methanol (15 ml) and 0.880 ammonia (1 ml). After 15 minutes, the reaction mixture was evaporated to dryness and the residue chromatographed on silica gel (eluted with dichloromethane: methanol, 98:2) to give the title compound as an oil (2.15 g, 94%). IR: νmax (film) 3100, 3070, 2995, 1600, 1570, 1440, 1395, 1335, 1250, 1220, 1170, 1030, 930, 640 cm-1. 1H NMR: δH [(CD3)2SO] 1.23 (6H,t,J=7Hz, (OCH2CH3)2), 3.88 (2H, d, J=8Hz, OCH2P), 3.89 (2H,m, CH2OCH2P), 4.0-4.1 (4H,m, (OCH2CH3)2), 4.61 (2H,m, N--OCH2), 8.82 (1H,s,H-8), 8.97 (1H,s,H-2). Found: C,38.38; H,5.10; N,15.14%. C12H18N4O5PCl. 0.5H2O requires: C,38.56; H,5.12; N,14.99%. Found: m/z 364.0703. C12H18N4O5PCl requires: m/z 364.0701.

reactant | 4-chloro-6-[2-(diethoxyphosphorylmethoxy)ethoxyamino]-5-formamidopyrimidine | 6.3 mmol, 2.4 g | ClC1=NC=NC(=C1NC=O)NOCCOCP(=O)(OCC)OCC | C12H20ClN4O6P
solvent | diethoxymethyl acetate | 10 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-Chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]purine | 2.15 g, 94% | ClC1=C2N=CN(C2=NC=N1)OCCOCP(=O)(OCC)OCC | C12H18ClN4O5P
